US08258134B2
A solution of 3-cyclopentyl-2-(1-oxo-1H-phthalazin-2-yl)-propionic acid (0.31 g, 1.09 mmol) in methylene chloride (6.10 mL, 0.18M) at 25° C. was treated with N,N-diisopropylethylamine (0.57 mL, 3.29 mmol) and N,N,N′,N′-tetramethyl-O—(N-succinimidyl)uronium tetrafluoroborate (0.39 g, 1.31 mmol). The resulting solution was stirred at 25° C. for 2 h. After this time, the reaction was treated with thiazol-2-ylamine (143 mg, 1.42 mmol). The resulting solution was stirred at 25° C. overnight. After this time, the reaction was partitioned between water (100 mL) and methylene chloride (3×75 mL). The combined organics were washed with water (1×100 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Silica gel column chromatography (ISCO, 40 g, 50% ethyl acetate/hexanes) afforded 3-cyclopentyl-2-(1-oxo-1H-phthalazin-2-yl)-N-thiazol-2-yl-propionamide as a white solid (247.7 mg, 61%); ES+-HRMS m/e calcd for C19H20N4O2S [M+H+] 369.1380 found 369.1378. 1H-NMR (300 MHz, DMSO-d6) δ ppm 0.99-1.17 (m, 1H), 1.20-1.80 (m, 8H), 2.04-2.18 (m, 1H), 2.23-2.36 (m, 1H), 5.73 (dd, J=10.4, 4.4 Hz, 1H), 7.22 (d, J=3.4 Hz, 1H), 7.47 (d, J=3.4 Hz, 1H), 7.83-7.93 (m, 1H), 7.94-8.02 (m, 2H), 8.26 (d, J=7.8 Hz, 1H), 8.52 (s, 1H), 12.46 (s, 1H).

reactant | 3-cyclopentyl-2-(1-oxo-1H-phthalazin-2-yl)-propionic acid | 1.09 mmol, 0.31 g | C1(CCCC1)CC(C(=O)O)N1C(C2=CC=CC=C2C=N1)=O | C16H18N2O3
reactant | N,N-diisopropylethylamine | 3.29 mmol, 0.57 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N,N′,N′-tetramethyl-O—(N-succinimidyl)uronium tetrafluoroborate | 1.31 mmol, 0.39 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | thiazol-2-ylamine | 1.42 mmol, 143 mg | S1C(=NC=C1)N | C3H4N2S
solvent | methylene chloride | 0.18M, 6.10 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-(1-oxo-1H-phthalazin-2-yl)-N-thiazol-2-yl-propionamide | 247.7 mg, 61% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)N1C(C2=CC=CC=C2C=N1)=O | C19H20N4O2S
